US05741785
2-Ethoxycarbonyl-1-methyl-7-trifluoromethylimidazo[1,2-a]quinoxalin 4(5H)-one
A mixture of 1-(2-amino-4-trifluoromethylphenyl)-4-ethoxycarbonyl-5-methyl-1H-imidazole (12.3 g, 39.3 mmol), 1,1'-carbonyldiimidazole (7.0 g, 43.2 mmol) in 1,2-dichlorobenzene (250 ml) was stirred at 180° C. for 6 h under N2. The reaction mixture was cooled to room temperature. The precipitate was filtered off and washed with acetone to give 10.2 g (77%) of the title compound. M.p. >250° C.

reactant | 1-(2-amino-4-trifluoromethylphenyl)-4-ethoxycarbonyl-5-methyl-1H-imidazole | 39.3 mmol, 12.3 g | NC1=C(C=CC(=C1)C(F)(F)F)N1C=NC(=C1C)C(=O)OCC | C14H14F3N3O2
reactant | 1,1'-carbonyldiimidazole | 43.2 mmol, 7.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | 1,2-dichlorobenzene | 250 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-Ethoxycarbonyl-1-methyl-7-trifluoromethylimidazo[1,2-a]quinoxalin 4(5H)-one | 10.2 g, 77% | C(C)OC(=O)C=1N=C2N(C3=CC=C(C=C3NC2=O)C(F)(F)F)C1C | C15H12F3N3O3
